US05773476
18 g of 2,6-di isopropyl phenol and 1.8 g HMTA (hexamethylene tetraamine) in 60 ml TFA (trifluoro acetic acid) was refluxed 3.5 hours. Workup, chromatography on silica gel (CH2Cl2) and trituration with hexane gave 5.3 g, 26% yield, white solid, mp-103° C. (3,5,-di-iso-propyl 4 hydroxybenzaldehyde). NMR CDCl3 δ 9.87(1H,S,CHO), 7.63(2H,S), 3.19(2H,septet,J=7.7 Hz), 1.30(12H,d,J=7.7 Hz).

reactant | 2,6-di isopropyl phenol | 18 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)O | C12H18O
reactant | HMTA | 1.8 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | hexane | CCCCCC | C6H14
reactant | TFA | 60 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3,5,-di-iso-propyl 4 hydroxybenzaldehyde | 26% yield | C(C)(C)C=1C=C(C=O)C=C(C1O)C(C)C | C13H18O2
